US06258854B1
Synthesis of 2-(3,7-Dimethyl-oct-6-enyloxy)-1-naphthalen-2-yl-ethanone
To a suspension of 2.24 g of magnesium in ether, a solution of 19.09 g 2-bromonaphthalene in 80 ml of ether was dropped. The mixture was heated to reflux. After refluxing for one hour, the mixture was cooled to 0-5° C. and a solution of 15.00 g (3,7-dimethyl-oct-6-enyloxy)-acetonitrile (Kulka, K. et al., Perfumer & Flavorist Vol. 3 (1978), p.39) in 20 ml of ether was dropped in at this temperature. After stirring at room temperature for 3 hours, the mixture was quenched with water and aqueous sulfuric acid. After extracting with ether, the combined organic phases were washed with saturated sodium bicarbonate and water, dried, filtered, and evaporated to dryness. The resulting dark oil was purified by chromatography to yield 15.22 g of a yellow oil.

reactant | magnesium | 2.24 g | [Mg] | Mg
reactant | 2-bromonaphthalene | 19.09 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | (3,7-dimethyl-oct-6-enyloxy)-acetonitrile | 15.00 g | CC(CCOCC#N)CCC=C(C)C | C12H21NO
reactant | ether | CCOCC | C4H10O
reactant | ether | 80 ml | CCOCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
product | 2-(3,7-Dimethyl-oct-6-enyloxy)-1-naphthalen-2-yl-ethanone | 15.22 g | CC(CCOCC(=O)C1=CC2=CC=CC=C2C=C1)CCC=C(C)C | C22H28O2
